datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[H:15])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2](=[C:3]([H:6])[H:7])[H:5])[C:10]([C:9](=[C:8]([H:12])[H:13])[H:14])([C:11]([H:16])([H:17])[H:18])[H:15])[H:4],61.4211
[C:0](#[C:1][C:2](=[C:3]=[C:4]([H:7])[H:8])[H:6])[H:5].[C:9]([C:10](=[C:11]([H:15])[H:16])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]=[C:4]([H:7])[H:8])([H:6])[C:9]([C:10](=[C:11]([H:15])[H:16])[H:14])([H:12])[H:13])[H:5],55.8564
[C:0](=[C:1][S:2][H:5])([H:3])[H:4].[S:6]([H:7])[H:8]>>[C:0](=[C:1]([S:2][H:5])[H:7])([H:3])[H:4].[S:6][H:8],-9.2048
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12](=[C:13]=[C:14]([H:16])[H:17])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:12](=[C:13]=[C:14]([H:16])[H:17])[H:15],53.5552
[O:0]=[C:1]1[O:2][C:3]([H:5])([H:6])[O:4]1.[O:7][O:8][H:9]>>[H:5][O:7][O:8][H:9].[O:0]=[C:1]1[O:2][C:3]([H:6])[O:4]1,54.291584
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7](=[C:8]([H:11])[H:12])([H:9])[H:10]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:9])[H:4].[C:7](=[C:8]([H:11])[H:12])[H:10],112.257
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6])[H:14])[H:10])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[H:28])([H:26])[H:27])([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6][H:26])[H:14])[H:10])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[H:28])[H:27])([H:23])([H:24])[H:25],74.0568
[C:0]([C:1]([C:2](=[C:3]([C:4](=[C:5]([C:6]([H:15])([H:16])[H:17])[H:14])[H:13])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]1([H:10])[C:2]([H:11])=[C:3]([H:12])[C:4]1([C:5]([C:6]([H:15])([H:16])[H:17])[H:14])[H:13])([H:7])([H:8])[H:9],196.02
[C:0]([C:1](=[O:2])[O:3][O:4][H:8])([H:5])([H:6])[H:7].[O:9][H:10]>>[C:0]([C:1](=[O:2])[O:3][O:4])([H:5])([H:6])[H:7].[H:8][O:9][H:10],-1.828408
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[C:26]([C:27]([C:28]([H:33])([H:34])[H:35])[C:29]([H:36])([H:37])[H:38])([H:30])([H:31])[H:32]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])([C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[C:27]([C:26]([H:30])([H:31])[H:32])([C:28]([H:33])([H:34])[H:35])[C:29]([H:36])([H:37])[H:38])[H:14])([H:12])[H:13],14.3511
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6].[C:13]([c:14]1[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]([H:26])[c:19]1[H:27])([H:20])([H:21])[H:22]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[H:20])([H:4])([H:5])[H:6].[C:13]([c:14]1[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]([H:26])[c:19]1[H:27])([H:21])[H:22],23.012
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16](=[C:17]([C:18]([C:19](=[C:20]([H:26])[H:27])[H:25])[H:24])[H:23])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])([C:6](=[C:7]([H:14])[H:15])[H:13])[C:18]([C:17](=[C:16]([H:21])[H:22])[H:23])([C:19](=[C:20]([H:26])[H:27])[H:25])[H:24])[H:9])[H:8],65.898
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])[H:10]>>[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])[C:4]1([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[C:7]([H:19])([H:20])[C:8]([H:21])([H:22])[C:9]1([H:23])[H:24])[H:10],23.7233
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7])([H:4])([H:5])[H:6].[O:13][O:14]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7])([H:5])[H:6].[H:4][O:13][O:14],39.003248
[C:0]([O:1][O:2])([H:3])([H:4])[H:5].[C:6]([O:7][O:8])([H:9])([H:10])[H:11]>>[C:0](=[O:1])([H:4])[H:5].[H:3][O:7][C:6]([H:9])([H:10])[H:11].[O:2][O:8],-4.397384
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[C:14]([C:15]([H:18])([H:19])[H:20])([H:16])[H:17]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])[H:8])([H:4])([H:5])[H:6].[H:7][C:14]([C:15]([H:18])([H:19])[H:20])([H:16])[H:17],43.5136
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[O:13][H:14]>>[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:11])[H:12])[H:7])([H:5])[H:6].[H:10][O:13][H:14],4.3965472
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6].[H:13][H:14]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[H:14])([H:4])([H:5])[H:6].[H:13],41.4216
